US09382265B2
(d) (3R,3 aS)-3-(hydroxymethyl)-7-((R)-4-methoxyl-2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one
Using compound (3R,3aS)-3-((t-butyldimethylsiloxy)methyl)-7-((R)-4-methoxyl-2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one (1.5 g, 3.24 mmol), and TBAF (1.27 g, 4.86 mmol) as starting materials, DCM as solvent, preparation following the method as described in Example 1 (b) afforded white solid 0.85 g, yield 75.0%.

reactant | (3R,3aS)-3-((t-butyldimethylsiloxy)methyl)-7-((R)-4-methoxyl-2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1(3H)-one | 3.24 mmol, 1.5 g | O([Si](C)(C)C(C)(C)C)C[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(C[C@@H](CC3)OC)=O)=O | C23H34N2O6Si
reactant | TBAF | 4.86 mmol, 1.27 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (3R,3 aS)-3-(hydroxymethyl)-7-((R)-4-methoxyl-2-oxopiperidin-1-yl)-3a,4-dihydrobenzo[b]oxazolo[3,4-d][1,4]oxazin-1 (3H)-one | 0.85 g, yield 75.0% | OC[C@@H]1OC(N2C3=C(OC[C@H]21)C=C(C=C3)N3C(C[C@@H](CC3)OC)=O)=O | C17H20N2O6
